US04028393
A solution of 271 g (4.4 mols) of cyanogen chloride in 1.1 liter of isopropanol is introduced at 0° to -5° C. into a 3 liter glass vessel equipped with a stirrer and a thermometer. By means of a metering pump, a solution of 220 g (2 mols) of resorcinol and 420 g (4.04 mols) of triethyl amine in 750 ml of isopropanol is introduced with stirring through an inlet pipe projecting below the surface. The pumping rate is adjusted in such a way that the reaction temperature can be kept at -5° C. to +3° C. On completion of the reaction, the crystalline sludge formed is filtered off under suction from the isopropanol. The filter residue is thoroughly stirred with 1.1 liter of water and filtered off under suction again. The residue thus obtained is then thoroughly washed with water and dried in a stream of air at 25° to 30° C. 276 g (86% of the theoretical) of resorcinol dicyanate are obtained in this way. Mp: 81° C., nD90 :1.4980

reactant | cyanogen chloride | 4.4 mols, 271 g | N#CCl | CClN
reactant | resorcinol | 2 mols, 220 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | triethyl amine | 4.04 mols, 420 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 1.1 liter | C(C)(C)O | C3H8O
solvent | isopropanol | 750 ml | C(C)(C)O | C3H8O
product | resorcinol dicyanate | [O-]C#N.[O-]C#N.C1(O)=CC(O)=CC=C1 | InChI=1S/C6H6O2.2CHNO/c7-5-2-1-3-6(8)4-5;2*2-1-3/h1-4,7-8H;2*3H/p-2
